US07776872B2
Magnesium ethoxide was generated by refluxing ethanol (50 mL) with 1.2 g (50 mmol) Magnesium turnings for 3 days. The ethanol was removed under reduced 10 pressure, and 50 mL of toluene was added, followed by dropwise addition of 5 g (50 mmol) of 2,5-pentanedione. The reaction mixture was stirred at room temperature for two hours and then at 70° C. for one hour, and then cooled to −10° C. A solution of 9.27 g (50 mmol) of 2-nitrobenzoyl chloride in 20 mL of toluene was added dropwise, and the solution was stirred at ambient temperature for 18 hours. The reaction mixture was 15 poured into a mixture of ice and 1N HCl, and the resulting solution was extracted with ethyl acetate. The organic layert was washed with brine, dried (MgSO4) filtered and concentrated to dryness under reduced pressure to afford 12.23 g of 3-(2-nitro-benzoyl)-pentane-2,4-dione

reactant | Magnesium ethoxide | [O-]CC.[Mg+2].[O-]CC
reactant | Magnesium | 50 mmol, 1.2 g | [Mg] | Mg
reactant | 2,5-pentanedione | 50 mmol, 5 g | CC(CCC=O)=O | C5H8O2
reactant | 2-nitrobenzoyl chloride | 50 mmol, 9.27 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(2-nitro-benzoyl)-pentane-2,4-dione | 12.23 g | [N+](=O)([O-])C1=C(C(=O)C(C(C)=O)C(C)=O)C=CC=C1 | C12H11NO5
